data/mechanisms/records/IMS8-EQT8.2m.json
{"mechanism_id": "IMS8-EQT8.2m", "species": [{"species_id": "cyclohexyl_cation", "mapped_smiles": "[CH+:1]1[CH2:2][CH2:3][CH2:4][CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "cyclobutyl_cation", "mapped_smiles": "[CH+:1]1[CH2:2][CH2:3][CH2:6]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethylene", "mapped_smiles": "[CH2:4]=[CH2:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclohexyl_cation"]}, {"state_id": "state_products", "species_ids": ["cyclobutyl_cation", "ethylene"]}], "steps": [{"step_id": "step_ring_contraction", "from_state": "state_precursor", "to_state": "state_products", "step_class": "retro_ring_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [3, 6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_ring_contraction", "support_type": "textbook_proposed", "locator": {"page": 167, "equation": "Table 8.2", "figure": null, "panel": null, "section": "8.3 (Two bonds cleaved; EE+ i-i)"}, "confidence": 0.7, "curator_note": "Table 8.2 (p.167, Two bonds cleaved, EE+ row): two inductive cleavages (i-i). Book draws 2 arcs (both drawn) sweeping the lower ring. Even-electron ring contraction of the cyclohexyl cation: C3-C4 bond -> C4=C5 pi (expelling ethylene) and C5-C6 bond -> new C3-C6 sigma (closing the cyclobutane); charge retained on the ring cation. The precise atoms expelled are schematic in the generic scheme; the encoded bonds reproduce the drawn cyclohexyl+ -> cyclobutyl+ + ethylene. No m/z / intensity printed -- m/z curator-computed."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": null, "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 83.0855, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_cyclobutyl", "species_id": "cyclobutyl_cation", "step_id": "step_ring_contraction", "observed_mz": 55.0542, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
